US04138566
A mixture of 1.5 grams of 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one and 1.9 grams of cis-2,6-dimethyl-1-propylpiperazine is heated at 216°-218° C. for 15 minutes under an atmosphere of dry nitrogen. The product is then isolated as described in Example 5 to give 1-[2-hydroxy-3-(cis-3,5-dimethyl-4-propyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-cis-3,5-dimethyl-4-propylpiperazinium hydroxide inner salt as a pale pinkish brown microcrystalline solid melting at about 202°-204° C.

reactant | 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one | 1.5 grams | N(C1=CC=CC=C1)C=1C(C(C1O)=NC1=CC=CC=C1)=O | C16H12N2O2
reactant | cis-2,6-dimethyl-1-propylpiperazine | 1.9 grams | C[C@@H]1N([C@@H](CNC1)C)CCC | C9H20N2
product | 1-[2-hydroxy-3-(cis-3,5-dimethyl-4-propyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-cis-3,5-dimethyl-4-propylpiperazinium hydroxide | [OH-].OC=1C(C(C1N1C[C@H](N([C@H](C1)C)CCC)C)=O)=[N+]1C[C@H](N([C@H](C1)C)CCC)C | InChI=1S/C22H38N4O2.H2O/c1-7-9-25-15(3)11-23(12-16(25)4)19-21(27)20(22(19)28)24-13-17(5)26(10-8-2)18(6)14-24;/h15-18H,7-14H2,1-6H3;1H2/t15-,16+,17-,18+;
